US07053107B2
(4-Chloro-2-nitro-phenyl)-acetic acid methyl ester
A solution of 2-(4-Chloro-2-nitro-phenyl)-malonic acid dimethyl ester (195 g, 679.4 mmol) in water (100 mL) and NMP (1000 mL) was heated to reflux for 3.5 hours. The solvent was removed by rotary evaporation to an oil. The oil was dissolved in EtOAc, and then washed with water (5×300 mL). The aqueous layer was then extracted with EtOAc (4×300 mL). The organic was washed with water. The organic layers were combined and dried over MgSO4. After removing the solids by filtration, the solvent was evaporated to yield the desired product as a orange/brown solid (160.0 g, 95%).

reactant | 2-(4-Chloro-2-nitro-phenyl)-malonic acid dimethyl ester | 679.4 mmol, 195 g | COC(C(C(=O)OC)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C11H10ClNO6
solvent | water | 100 mL | O | H2O
solvent | NMP | 1000 mL | CN1CCCC1=O | C5H9NO
product | (4-Chloro-2-nitro-phenyl)-acetic acid methyl ester | 160.0 g, 95% | COC(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O | C9H8ClNO4
